2123-01-26 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   no O/N events
   received ativan and tessalon pearles
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-1-25**] 09:06 PM
   Lorazepam (Ativan) - [**2123-1-25**] 09:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-26**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 103 (90 - 106) bpm
   BP: 93/50(59) {89/40(52) - 141/72(80)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 77.7 kg
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    800 mL
                                                                    470 mL
   Urine:
                                                                    800 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 98%
   ABG: 7.39/57/198/30/8
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   9.9 g/dL
   220 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   24 mg/dL
   99 mEq/L
   141 mEq/L
   31.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2123-1-25**]  04:29 PM
                             [**2123-1-26**]  04:01 AM
   WBC
   7.8
   Hct
   31.1
   Plt
   191
   Cr
   0.7
   TCO2
   36
   Glucose
   220
   Other labs: Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   61 year old female with COPD on 3L home O2 s/p recent admission [**12-2**]
   for COPD exacerbation and newly diganosed LUL mass now admitted with
   respiratory distress...
   .
   #. Acute hypercarbic respiratory distress/Cough:  Etiology likely
   secondary to COPD exacerbation, although pt has LUL mass and bouts of
   coughing; concern for ? trachobroncheomalacia vs viral infection. No
   sign of bacterial infection but given mass a post-obstructive pneumonia
   could also  be a possibility.  There is no evidence of a new
   conslidation on CXR nor any effusions and pt is afebrile, no WBC; there
   is no pulmonary vascular congestion seen on CXR and BNP 89.   Pt with
   continued cough and shallow breathes with SOB.
   - continue albuterol q2 and q1:prn and ipratropium q6 nebs
   - continue solumedrol, FS QID while on high dose steroids
   - Continue azithromycin 500mg qday (day#2 is [**1-25**])
   - Sputum cultures, blood cultures ordered
   - CT chest w/ and w/o contrast ordered, but will hold off given
   respiratory status
   - continue supplemental O2 for goal SaO2 88-93%; PaO2 >60;  We will try
   another trial of BiPAP as tolerated. Will have low threshold to resume
   non-invasive ventilation for now, consider intubation if hypercarbia
   worsens, increased fatigue, or unable to protect airway
   - continue home lasix 80mg daily
   - Repeat CXR in AM
   - cough suppressants and morphine/ativan prn cough
   #. Fibromyalgia:
   -continue home fentanyl patch, SOMA, darvocet, gabapentin, amitryptline
   and Propoxyphene per home regimen
   -Holding home valium for now; giving ativan prn given pt slightly
   sedated after 2mg Ativan given in ED; prefer to monitor closely
   .
   # Anemia: At baseline 31.4.
   .
   # FEN: Regular diet
   # Prophylaxis: Subcutaneous heparin, colace/senna, home PPI, Finger
   sticks while on IV Steroids
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-1-25**] 07:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2123-01-26 09:14:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Complains of another episode of coughing fit.. and feels like she going
   to "poop" out. Given 0.5mg of ativan, 1mg of morphine. Complaining of
   chest pain >[**10-3**] burning in the left chest since yesterday early am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2123-1-25**] 09:06 PM
   Heparin Sodium (Prophylaxis) - [**2123-1-26**] 08:02 AM
   Morphine Sulfate - [**2123-1-26**] 08:29 AM
   Other medications:
   heparin 500 tid, protonix, methyprednisone, inslin sliding scale,
   atrovent q6, gabapentin, albuterol continuous, lasix 80 daily, fentnayl
   patch q72, [**Last Name (LF) 12996**], [**First Name3 (LF) 5**] 81, tesslon perles 100 tid, soma 350mg
   tid, darvoset 1 tab x2, lorazepam 1mg x3, morphine 1mg x1, neurontin
   900.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-26**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.1
C (97.0
   Tcurrent: 35.9
C (96.6
   HR: 99 (90 - 106) bpm
   BP: 86/42(51) {86/40(51) - 141/72(80)} mmHg
   RR: 15 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 77.7 kg
             Total In:
             163 mL
   PO:
             150 mL
   TF:
   IVF:
   13 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    550 mL
   Urine:
                                                                    800 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 98%
   ABG: 7.39/57/198/30/8
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : left
   anterior chest, Wheezes : diffusely)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   191 K/uL
   220 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   24 mg/dL
   99 mEq/L
   141 mEq/L
   31.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2123-1-25**]  04:29 PM
                             [**2123-1-26**]  04:01 AM
   WBC
   7.8
   Hct
   31.1
   Plt
   191
   Cr
   0.7
   TCO2
   36
   Glucose
   220
   Other labs: Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR with increased flattening of the diaphragms.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Severe COPD, ? contribution from malignancy, ? viral process vs
   atypical infection, ?less likely post obstructive pneumonia, ?
   contribution from GERD superimposed.
   Solumedrol 125mg q6, atrovent and albuterol, Increased PPI to [**Hospital1 **],
   azithromycin, send flu swab. Monitor gas exchange closely. iwth ABG,
   place on Bipap to help relieve work of breathing intermittently. Likely
   large contirbution from anxiety will continue outpatient meds and treat
   with gently benzodiazepine. Hold off on CT due to tenous respiratory
   status.
Acidosis/hypotensive: pH decreased this am, will send lactate, bolus
   fluids slowly
fibromyalgia: continue outpatient medicatoins.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-1-25**] 07:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2123-01-27 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2123-1-26**] 08:41 AM
 INVASIVE VENTILATION - START [**2123-1-26**] 11:00 AM
   - Intubated for hypoxia / hypercarbia / rapid shallow breathing
   - High sedation requirements
   - Settled on AC 50% 16 x 500 with ABG 7.41 / 54 / 118
   - CT Scan done,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-1-26**] 08:02 AM
   Morphine Sulfate - [**2123-1-26**] 08:29 AM
   Lorazepam (Ativan) - [**2123-1-26**] 11:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-27**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.9
C (96.6
   HR: 58 (55 - 107) bpm
   BP: 112/51(73) {105/48(0) - 157/99(122)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77.7 kg (admission): 77.7 kg
             Total In:
                                                                  1,719 mL
                                                                    188 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,359 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    480 mL
   Urine:
                                                                  1,730 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 6,000 (1,098 - 6,000) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/55/110/30/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General: Alert, oriented, coughing with some respiratory distress; able
   to talk down slightly
   HEENT: Neb in place
   Neck: supple, difficult to assess JVD as breathing slightly labored
   with coughing
   Lungs: Expiratory and inspiratory wheezing, some rhonchi in LUL,
   overall poor air movement
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley  in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   199 K/uL
   10.0 g/dL
   221 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
   29.4 %
   16.0 K/uL
        [image002.jpg]
                             [**2123-1-25**]  04:29 PM
                             [**2123-1-26**]  04:01 AM
                             [**2123-1-26**]  08:52 AM
                             [**2123-1-26**]  01:33 PM
                             [**2123-1-26**]  04:36 PM
                             [**2123-1-26**]  05:12 PM
                             [**2123-1-26**]  07:27 PM
                             [**2123-1-27**]  04:11 AM
                             [**2123-1-27**]  04:24 AM
   WBC
   7.8
   16.0
   Hct
   31.1
   29.4
   Plt
   191
   199
   Cr
   0.7
   0.6
   0.4
   TCO2
   36
   32
   32
   40
   35
   36
   Glucose
   220
   221
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   cough
   61 year old female with COPD on 3L home O2 s/p recent admission [**12-2**]
   for COPD exacerbation and newly diganosed LUL mass now admitted with
   respiratory distress...
   .
   #. Acute hypercarbic respiratory distress/Cough:  Etiology likely
   secondary to COPD exacerbation, although pt has LUL mass and bouts of
   coughing; concern for ? trachobroncheomalacia vs viral infection. No
   sign of bacterial infection but given mass a post-obstructive pneumonia
   could also  be a possibility.  There is no evidence of a new
   conslidation on CXR nor any effusions and pt is afebrile, no WBC; there
   is no pulmonary vascular congestion seen on CXR and BNP 89.   Pt with
   continued cough and shallow breathes with SOB.
   - continue albuterol q2 and q1:prn and ipratropium q6 nebs
   - continue solumedrol, FS QID while on high dose steroids
   - Continue azithromycin 500mg qday (day#2 is [**1-25**])
   - Sputum cultures, blood cultures ordered
   - CT chest w/ and w/o contrast ordered, but will hold off given
   respiratory status
   - continue supplemental O2 for goal SaO2 88-93%; PaO2 >60;  We will try
   another trial of BiPAP as tolerated. Will have low threshold to resume
   non-invasive ventilation for now, consider intubation if hypercarbia
   worsens, increased fatigue, or unable to protect airway
   - continue home lasix 80mg daily
   - Repeat CXR in AM
   - cough suppressants and morphine/ativan prn cough
   #. Fibromyalgia:
   -continue home fentanyl patch, SOMA, darvocet, gabapentin, amitryptline
   and Propoxyphene per home regimen
   -Holding home valium for now; giving ativan prn given pt slightly
   sedated after 2mg Ativan given in ED; prefer to monitor closely
   .
   # Anemia: At baseline 31.4.
   .
   # FEN: Regular diet
   # Prophylaxis: Subcutaneous heparin, colace/senna, home PPI, Finger
   sticks while on IV Steroids
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-1-26**] 10:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2123-01-27 11:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo woman w/ severe COPD on home O2 admitted initially for COPD exac
   and resp distress, intubated [**1-27**] for worsened resp distress.
   24 Hour Events:
   Intubated yest for increased resp distress refractory hypoxemia despite
   BiPAP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2123-1-27**] 08:32 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2123-1-26**] 11:32 AM
   Pantoprazole (Protonix) - [**2123-1-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-27**] 08:00 AM
   Other medications:
   SoluMedrol 125 q6, RISS, fentanyl patch, gabapentin, amitryptiline,
   azithromycin, ASA, NAC, albuterol mdi q4, atrovent q6, Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-27**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 56 (55 - 107) bpm
   BP: 110/52(73) {105/48(0) - 157/99(122)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77.7 kg (admission): 77.7 kg
             Total In:
                                                                  1,719 mL
                                                                    336 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,359 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    715 mL
   Urine:
                                                                  1,730 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/55/110/30/8
   Ve: 8.2 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   199 K/uL
   221 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
   29.4 %
   16.0 K/uL
        [image002.jpg]
                             [**2123-1-25**]  04:29 PM
                             [**2123-1-26**]  04:01 AM
                             [**2123-1-26**]  08:52 AM
                             [**2123-1-26**]  01:33 PM
                             [**2123-1-26**]  04:36 PM
                             [**2123-1-26**]  05:12 PM
                             [**2123-1-26**]  07:27 PM
                             [**2123-1-27**]  04:11 AM
                             [**2123-1-27**]  04:24 AM
   WBC
   7.8
   16.0
   Hct
   31.1
   29.4
   Plt
   191
   199
   Cr
   0.7
   0.6
   0.4
   TCO2
   36
   32
   32
   40
   35
   36
   Glucose
   220
   221
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CT chest- prelim LUL abnormality seems stable; emphysematous
   change present; diffuse lower lob [**Last Name (un) 13014**] peripheral tree in [**Male First Name (un) **] and
   small nodular change
   Microbiology: Blood, urine neg to date
   Resp viral- screen neg, cx pending
   Assessment and Plan
   61 yo woman w/ severe COPD on home O2 admitted initially for COPD exac
   and resp distress, intubated [**1-27**] for worsened resp distress.
   (1) RESP FAILURE- underlying severe COPD; CT c/w viral process vs
   atypical bacterial infxn.
   -wean fio2 today; consider PSV trial vs SBT as tolerated
   -cont Solu-Medrol, scheduled nebs
   -cont azithro
   -f/u viral  cx
   -obtain sputum cx today
   -resume home furosemide
   (2) FIBROMYALGIA- stable
   ICU Care
   Nutrition:
   Comments: holding for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2123-1-26**] 10:36 AM
   Arterial Line - [**2123-1-27**] 12:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2123-01-28 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- trial of PS, but pt agitated and uncomfortable and placed back on AC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2123-1-27**] 08:32 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-1-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-27**] 08:00 AM
   Famotidine (Pepcid) - [**2123-1-27**] 08:00 PM
   Fentanyl - [**2123-1-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-28**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 50 (49 - 100) bpm
   BP: 146/59(90) {97/48(70) - 159/90(111)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77.7 kg (admission): 77.7 kg
             Total In:
                                                                    740 mL
                                                                    225 mL
   PO:
             TF:
   IVF:
                                                                    530 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    340 mL
   Urine:
                                                                  2,770 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,030 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 454 (454 - 454) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 16 cmH2O
   Compliance: 58.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.50/45/95.[**Numeric Identifier 143**]/35/9
   Ve: 7.2 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   212 K/uL
   10.1 g/dL
   139 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.1 mEq/L
   24 mg/dL
   102 mEq/L
   143 mEq/L
   29.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2123-1-26**]  08:52 AM
                             [**2123-1-26**]  01:33 PM
                             [**2123-1-26**]  04:36 PM
                             [**2123-1-26**]  05:12 PM
                             [**2123-1-26**]  07:27 PM
                             [**2123-1-27**]  04:11 AM
                             [**2123-1-27**]  04:24 AM
                             [**2123-1-27**]  01:44 PM
                             [**2123-1-28**]  03:46 AM
                             [**2123-1-28**]  04:01 AM
   WBC
   16.0
   9.2
   Hct
   29.4
   29.7
   Plt
   199
   212
   Cr
   0.6
   0.4
   0.6
   TCO2
   32
   32
   40
   35
   36
   33
   36
   Glucose
   221
   139
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   61 year old female with COPD on 3L home O2 s/p recent admission [**12-2**]
   for COPD exacerbation and newly diganosed LUL mass now admitted with
   respiratory distress...
   .
   #. Acute hypercarbic respiratory distress/Cough:  Etiology likely
   secondary to COPD exacerbation, although pt has LUL mass and bouts of
   coughing;  No sign of bacterial infection but given mass a
   post-obstructive pneumoni- could also be viral although initial viral
   swab neg.  There is no evidence of a new conslidation on CXR nor any
   effusions and pt is afebrile, no WBC (rising now on steroids); there is
   no pulmonary vascular congestion seen on CXR and BNP 89.   Pt with
   continued cough and shallow breathes with SOB. Patient had increased
   fatigue and unable to tolerate BIPAP; thus intubated on [**1-26**]
   - continue albuterol q2 and q1:prn and ipratropium q6 nebs
   - continue solumedrol, FS QID while on high dose steroids; continue for
   1 more day before weaning down
   - RSBI later today, titrate down FiO2 and trial of PSV today and
   possible SBT
   - Continue azithromycin 500mg qday (day#2)
   - f/u culture data
   - continue home lasix 80mg daily
   - Repeat CXR in AM
   #. Fibromyalgia:
   -continue home fentanyl patch, SOMA, darvocet, gabapentin, amitryptline
   and Propoxyphene per home regimen
   -Holding home valium for now; giving ativan prn given pt slightly
   sedated after 2mg Ativan given in ED; prefer to monitor closely
   .
   # Anemia: At baseline 31.4.
   .
   # Access: peripherals , Aline
   # Communication: Patient
   # Code: Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-1-26**] 10:36 AM
   Arterial Line - [**2123-1-27**] 12:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-01-28 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo woman w/ severe COPD on home O2 admitted initially for COPD exac
   and resp distress, intubated [**1-27**] for worsened resp distress.
   24 Hour Events:
   Tried on PSV 8/5 yest- lasted approx 2hrs, w/ ABG looking good.
   Switched back for anxiety/ agitation.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2123-1-27**] 08:32 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-1-27**] 08:00 PM
   Fentanyl - [**2123-1-28**] 09:11 AM
   Other medications:
   hep sc, RISS, gabapentin, azithro, albuterol scheduled, lasix 80 qd,
   atrovent scheduled, solumderol 60 q8
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-28**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 81 (49 - 100) bpm
   BP: 126/56(84) {97/48(70) - 159/90(111)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 77.7 kg
             Total In:
                                                                    740 mL
                                                                    450 mL
   PO:
             TF:
   IVF:
                                                                    530 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    700 mL
   Urine:
                                                                  2,770 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,030 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 509 (454 - 509) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/51/114/35/11
   Ve: 8.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   212 K/uL
   139 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.1 mEq/L
   24 mg/dL
   102 mEq/L
   143 mEq/L
   29.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2123-1-26**]  01:33 PM
                             [**2123-1-26**]  04:36 PM
                             [**2123-1-26**]  05:12 PM
                             [**2123-1-26**]  07:27 PM
                             [**2123-1-27**]  04:11 AM
                             [**2123-1-27**]  04:24 AM
                             [**2123-1-27**]  01:44 PM
                             [**2123-1-28**]  03:46 AM
                             [**2123-1-28**]  04:01 AM
                             [**2123-1-28**]  10:18 AM
   WBC
   16.0
   9.2
   Hct
   29.4
   29.7
   Plt
   199
   212
   Cr
   0.6
   0.4
   0.6
   TCO2
   32
   40
   35
   36
   33
   36
   37
   Glucose
   221
   139
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR-perihilar fullness, L effusion
   Microbiology: sputum, urine, blood neg
   Assessment and Plan
   61 yo woman w/ severe COPD on home O2 admitted initially for COPD exac
   and resp distress, intubated [**1-27**] for worsened resp distress.
   (1) RESP FAILURE- underlying severe COPD; CT c/w viral process vs
   atypical bacterial infxn as well as nonspec LUL pattern
   -extubate today- pt and family aware of risk for reintubation. Would
   extubate directly to BiPAP
   -cont slow Solu-Medrol wean 60 mg q8h, scheduled nebs
   -f/u final CT chest read
   -cont azithro, f/u cx data
   -resume home furosemide
   -scheduled Valium IV and prn Ativan for periextubation anxiety
   (2) FIBROMYALGIA- stable; cont pain meds, will increase patch as we
   wean off IV fentanyl
   (3) LEUKOCYTOSIS
 likely due to steroids
   ICU Care
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2123-1-26**] 10:36 AM
   Arterial Line - [**2123-1-27**] 12:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  daughters updated
   [**Name2 (NI) 36**] status: Full code, Disposition :ICU
   Total time spent: 35 minutes, patient is critically ill

2123-01-29 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo woman w/ severe COPD on home O2 admitted initially for COPD exac
   and resp distress, intubated [**1-27**] for worsened resp distress.
   24 Hour Events:
   extubated yest pm.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2123-1-27**] 08:32 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2123-1-28**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2123-1-28**] 08:30 PM
   Diazepam (Valium) - [**2123-1-29**] 05:30 AM
   Famotidine (Pepcid) - [**2123-1-29**] 08:19 AM
   Other medications:
   albuterol sched q4, [**Last Name (LF) 13075**], [**First Name3 (LF) **], azithro 500 qd, fentanyl patch,
   furosemide, gabapentin, heparin sc, atrovent scheduled, solumedrol 60
   q8, Valium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-1-29**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 96 (55 - 96) bpm
   BP: 118/57(78) {101/50(76) - 150/141(146)} mmHg
   RR: 14 (8 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 77.7 kg
   Height: 58 Inch
             Total In:
                                                                    741 mL
                                                                    290 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    231 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,016 mL
                                                                    585 mL
   Urine:
                                                                  2,016 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,275 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 972 (473 - 972) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.45/52/102/37/9
   Ve: 7 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), soft
   apical systolic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : diminished,
   Diminished: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   229 K/uL
   131 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.0 mEq/L
   27 mg/dL
   102 mEq/L
   145 mEq/L
   33.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2123-1-26**]  07:27 PM
                             [**2123-1-27**]  04:11 AM
                             [**2123-1-27**]  04:24 AM
                             [**2123-1-27**]  01:44 PM
                             [**2123-1-28**]  03:46 AM
                             [**2123-1-28**]  04:01 AM
                             [**2123-1-28**]  10:18 AM
                             [**2123-1-28**]  12:37 PM
                             [**2123-1-28**]  05:55 PM
                             [**2123-1-29**]  04:26 AM
   WBC
   16.0
   9.2
   8.3
   Hct
   29.4
   29.7
   33.7
   Plt
   199
   212
   229
   Cr
   0.4
   0.6
   0.7
   TCO2
   35
   36
   33
   36
   37
   37
   37
   Glucose
   221
   139
   131
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL,
   PO4:4.9 mg/dL
   Imaging: CT- spiculated LUL mass, severe emphysema; f/u 6 mos
   CXR- hilar fullness
   Microbiology: Sputum- GPCs
   Assessment and Plan
   61 yo woman w/ severe COPD on home O2 admitted initially for COPD exac
   and resp distress, intubated [**1-27**] for resp distress.
   (1) RESP FAILURE- underlying severe COPD; CT c/w viral process vs
   atypical bacterial infxn as well as nonspec LUL pattern
   -cont to wean O2
   -cont slow Solu-Medrol wean 60 mg q8h  --> taper today to prednisone 40
   qd
   -cont azithro --> ok to continue but f/u sputum GPCs in case change is
   made
   -resume home furosemide
   -resume home anxiety regimen
   (2) FIBROMYALGIA- stable; cont pain meds, will increase patch as we
   wean off IV fentanyl
   -resume Soma
   (3) DISPO-SW to aid w/ difficult home situation as well as difficulty
   affording important meds such as Spiriva and Advair
   -PT/OT
   ICU Care
   Nutrition:
   Comments: po
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2123-1-27**] 12:44 AM
   20 Gauge - [**2123-1-29**] 05:43 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes